US09107964B2
506 mg (60% in oil, 13 mmol equivalents) of sodium hydride was added to 5.0 mL of tetrahydrofuran, and the mixture was cooled to about 0° C. in an ice bath. 3.2 mL (20.7 mmol equivalents) of diethyl malonate was added thereto (solution A). 2.3 g (10.7 mmol equivalents) of 2-benzyloxy-1-bromoethane was dissolved in 3.0 mL of tetrahydrofuran, this was added dropwise to solution A over 10 minutes, and the mixture was refluxed while heating overnight. After completion of the reaction, a 0.5 mol/L aqueous solution of hydrochloric acid was added dropwise to the reaction liquid, and the mixture was extracted three times with diethyl ether. The combined diethyl ether layers were washed with brine, then dried with anhydrous magnesium sulfate, and subsequently concentrated under vacuum, and the obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=20/1) to give 2.85 g (9.67 mmol equivalents) of diethyl 2-(2-benzyloxyethyl)malonate.

reactant | sodium hydride | 13 mmol, 506 mg | [H-].[Na+]
reactant | diethyl malonate | 20.7 mmol, 3.2 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-benzyloxy-1-bromoethane | 10.7 mmol, 2.3 g | C(C1=CC=CC=C1)OCCBr | C9H11BrO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | diethyl 2-(2-benzyloxyethyl)malonate | 9.67 mmol, 2.85 g | C(C1=CC=CC=C1)OCCC(C(=O)OCC)C(=O)OCC | C16H22O5
